US05367081
Synthesis of t-butyl 2-[N-[1,4-dihydro-2-methyl-5-methoxycarbonyl-4-(3-nitrophenyl)-6-phenylpyridine-3-carbonyl]amino]acetate:
More specifically a mixture of 330 mg (1 mmol) of t-butyl 2-[N-[2-acetyl-3-(3-nitrophenyl)-2-propenoyl]amino]acetate and 191 mg (1 mmol) of ethyl 3-amino-3-phenyl-2-propenoate was stirred under a light-shielding condition at 110° C. overnight. After cooling to room temperature, the reaction mixture was chromatographed on a silica gel column for purification, whereby 98 mg (22%) of the captioned compound was obtained as an oily material.

reactant | t-butyl 2-[N-[2-acetyl-3-(3-nitrophenyl)-2-propenoyl]amino]acetate | 1 mmol, 330 mg | C(C)(=O)C(C(=O)NCC(=O)OC(C)(C)C)=CC1=CC(=CC=C1)[N+](=O)[O-] | C17H20N2O6
reactant | ethyl 3-amino-3-phenyl-2-propenoate | 1 mmol, 191 mg | NC(=CC(=O)OCC)C1=CC=CC=C1 | C11H13NO2
product | t-butyl 2-[N-[1,4-dihydro-2-methyl-5-methoxycarbonyl-4-(3-nitrophenyl)-6-phenylpyridine-3-carbonyl]amino]acetate | 98 mg, 22% | CC=1NC(=C(C(C1C(=O)NCC(=O)OC(C)(C)C)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C1=CC=CC=C1 | C27H29N3O7
